US03931268
309 g. of a 27% suspension of sodium hydride in an inert solvent were treated with 300 ml. of dimethylformamide, and a solution of 1095 g. of 1-methyl-1,2-dicarbobenzoxy-hydrazine in dimethylformamide was added thereto. When all the material had been added and the hydrogen evolution had nearly come to a standstill, the mixture was heated for an hour at about 80° in order to carry the formation of the sodium salt to completion. A mixture of 759 g. of 4-(bromo-methyl)-benzoic acid methyl ester in 700 ml. of dimethylformamide was then dropped in, and finally the reaction mixture was heated for an hour at 80°. After cooling, the reaction mixture was poured into 10 liters of ice water and the condensation products taken up in ether. The thereby obtained crude methyl ester (nD24 = 1.1558) was used without further purification for the next step. It was dissolved in about 2200 ml. of dioxane, treated with a solution of 133 g. of sodium hydroxide in 870 ml. of water, and the resulting mixture stirred for about 24 hours at room temperature. It was then poured into about 10 liters of ice water and neutral materials were extracted with ether. The aqueous phase was rendered acid with concentrated hydrochloric acid (weak congo red) and the separated acid taken up in ether. The isolated crude acid was recrystallized from dibutyl ether, yielding colorless crystals of 4-[(2-methyl-1,2-dicarbobenzoxy-hydrazino)-methyl]-benzoic acid, which melted at 112°. The so-obtained product was sufficiently pure for further reaction.

reactant | sodium hydride | [H-].[Na+]
reactant | 1-methyl-1,2-dicarbobenzoxy-hydrazine | CN(NC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C17H18N2O4
reactant | hydrogen | [H][H] | H2
reactant | sodium | [Na] | Na
reactant | 4-(bromo-methyl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)CBr)=O | C9H9BrO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 4-[(2-methyl-1,2-dicarbobenzoxy-hydrazino)-methyl]-benzoic acid | CN(N(C(=O)OCC1=CC=CC=C1)CC1=CC=C(C(=O)O)C=C1)C(=O)OCC1=CC=CC=C1 | C25H24N2O6
